US09422312B2
4-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]-N,N-dimethyl-benzenesulfonimidamide
A mixture of N-({4-[4-(2-{[(3R,3aR,6R,6aR)-6-hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}imidazo[4,5-b]pyridin-5-yl)phenyl]-phenyl}(dimethylamino)oxo-λ6-sulfanylidene)-2,2,2-trifluoroacetamide (22 mg) and trifluoroacetic acid (0.30 mL) in dichloromethane (1.00 mL) is stirred over night at room temperature. The reaction mixture is concentrated in vacuo and the residue is dissolved in methanol. Aqueous Na2CO3 solution (2 N; 60 μL) is added and the mixture is stirred for 1 h. The reaction mixture is filtered and the crude product is purified by preparative HPLC to give the title compound. LC (method 1): tR=0.86 min; Mass spectrum (ESI+): m/z=556 [M+H]+.

reactant | N-({4-[4-(2-{[(3R,3aR,6R,6aR)-6-hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3-{[2-(trimethylsilyl)ethoxy]methyl}imidazo[4,5-b]pyridin-5-yl)phenyl]-phenyl}(dimethylamino)oxo-λ6-sulfanylidene)-2,2,2-trifluoroacetamide | 22 mg | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC2=NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=NC(C(F)(F)F)=O)(=O)N(C)C)N2COCC[Si](C)(C)C | C34H39ClF3N5O7SSi
reactant | trifluoroacetic acid | 0.30 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1.00 mL | ClCCl | CH2Cl2
product | 4-[4-(2-{[(3R,3aR,6R,6aR)-6-Hydroxy-hexahydrofuro[3,2-b]furan-3-yl]oxy}-6-chloro-3H-imidazo[4,5-b]pyridin-5-yl)phenyl]-N,N-dimethyl-benzenesulfonimidamide | O[C@@H]1CO[C@H]2[C@@H]1OC[C@H]2OC2=NC=1C(=NC(=C(C1)Cl)C1=CC=C(C=C1)C1=CC=C(C=C1)S(=O)(N(C)C)=N)N2 | C26H26ClN5O5S
